US07750038B2
This compound was prepared according to the general procedure for sulfonylation of indolines and tetrahydroquinolines described in Example 4 using 5-bromo-7-fluoroindoline (0.21 g, 0.97 mmol) and methanesulfonyl chloride (0.15 mL, 1.94 mmol) to provide 5-bromo-7-fluoro-1-(methylsulfonyl)indoline (0.19 g). MS (ES) m/z 293.6; HPLC purity 98.4% at 210-370 nm, 8.4 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammonium formate buffer pH=3.5 acetonitrile+MeOH) for 10 minutes, hold 4 minutes.

reactant | 5-bromo-7-fluoroindoline | 0.97 mmol, 0.21 g | BrC=1C=C2CCNC2=C(C1)F | C8H7BrFN
reactant | methanesulfonyl chloride | 1.94 mmol, 0.15 mL | CS(=O)(=O)Cl | CH3ClO2S
product | 5-bromo-7-fluoro-1-(methylsulfonyl)indoline | 0.19 g | BrC=1C=C2CCN(C2=C(C1)F)S(=O)(=O)C | C9H9BrFNO2S
